US07732460B2
Preparation (D) 1,1-Dimethylethyl [(2R)-2-morpholinylmethyl]carbamate
To a solution of 1,1-dimethylethyl {[(2S)-4-(phenylmethyl)-2-morpholinyl]methyl}carbamate (4.9 g, 16 mmol) in ethanol (160 mL) was added 10% Pd/C (1.5 μg). The suspension was hydrogenated at 50 psi for 8 h. The reaction was filtered through a pad of Celite® and the pad was washed several times with methanol. The filtrate was concentrated to afford the title compound (3.35 g, 97%) as a colorless solid which was not purified further: LC/MS (ES) m/e 217 (M+H)+. The absolute stereochemistry of the title compound was determined by vibrational circular dichroism (VCD).

reactant | 1,1-dimethylethyl {[(2S)-4-(phenylmethyl)-2-morpholinyl]methyl}carbamate | 16 mmol, 4.9 g | C1(=CC=CC=C1)CN1C[C@@H](OCC1)CNC(OC(C)(C)C)=O | C17H26N2O3
solvent | ethanol | 160 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.5 μg | [Pd] | Pd
product | 1,1-Dimethylethyl [(2R)-2-morpholinylmethyl]carbamate | 3.35 g, 97% | N1C[C@@H](OCC1)CNC(OC(C)(C)C)=O | C10H20N2O3
